US07737136B2
2-[(4-Chloro-2-nitrophenyl)amino]benzoic Acid (Structure 70 of Scheme XVII)
A solution of 4-chloro-1-fluoro-2-nitrobenzene (20 g, 114 mmol) and anthranilic acid (17.4 g, 127 mmol) in pentanol (250 mL) was heated to 120° C. in a Dean-Stark apparatus. Copper (126 mg, 2 mmol) was added, followed by potassium carbonate (12.7 g, 92 mmol). The resulting reaction mixture was stirred at 120° C. for 0.5 h and at 140° C. for 2 h. Subsequently, water and 1N (aq.) NaOH were added to dissolve the product. Then, the pH was adjusted to pH 5 and the water layer was extracted with ethyl acetate (3×). The combined organic layers were washed with water and brine, dried and evaporated. Ethanol was added to the obtained product. The title compound (14.4 g, 43%) was collected by filtration of the ethanol mixture.

reactant | 4-chloro-1-fluoro-2-nitrobenzene | 114 mmol, 20 g | ClC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3ClFNO2
reactant | anthranilic acid | 127 mmol, 17.4 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | potassium carbonate | 92 mmol, 12.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | pentanol | 250 mL | C(CCCC)O | C5H12O
catalyst | Copper | 2 mmol, 126 mg | [Cu] | Cu
solvent | water | O | H2O
product | 2-[(4-Chloro-2-nitrophenyl)amino]benzoic Acid | ClC1=CC(=C(C=C1)NC1=C(C(=O)O)C=CC=C1)[N+](=O)[O-] | C13H9ClN2O4
